* VioAVR Single-Phase Full-Bridge Inverter with SPWM
* 50Hz sine output, 20kHz carrier, 24V DC bus
* VDMOS + B-source bootstrap gate drive
*
* Output: clean 50Hz sine across load (out_plus - out_minus)
*   Peak: ~19.2V differential (±96% modulation)
*   THD: <1% with 2nd-order LC filter

* 1. Power Supplies
V_dc vdc 0 DC 24.0

* 2. DAC bridges (level-shift AVR 5V digital to 12V gate drive)
A_dac_a [spwm_a_dig] [spwm_a_an] dac_model
A_dac_b [spwm_b_dig] [spwm_b_an] dac_model
.model dac_model dac_bridge(out_low=0.0 out_high=12.0)

* 3. Bootstrap gate drives (B-sources)
Bhs_a q1_gate_drv 0 V=V(sw_a)+V(spwm_a_an)
Bls_a q4_gate_drv 0 V=12-V(spwm_a_an)
Bhs_b q2_gate_drv 0 V=V(sw_b)+V(spwm_b_an)
Bls_b q3_gate_drv 0 V=12-V(spwm_b_an)

* 4. Gate resistors + bootstrap convergence caps
Rg1 q1_gate_drv q1_gate 0.1
Rg2 q2_gate_drv q2_gate 0.1
Rg3 q3_gate_drv q3_gate 0.1
Rg4 q4_gate_drv q4_gate 0.1
Cgs1 q1_gate sw_a 100p
Cgs2 q2_gate sw_b 100p
Cgs3 q3_gate 0 100p
Cgs4 q4_gate 0 100p

* 5. H-Bridge MOSFETs (N-channel)
M1 vdc q1_gate sw_a vdc IRF540
M2 vdc q2_gate sw_b vdc IRF540
M3 sw_b q3_gate 0 0 IRF540
M4 sw_a q4_gate 0 0 IRF540

* 6. RC Snubbers (all 4 MOSFETs)
Cs1 sw_a vdc 470p
Rs1 sw_a vdc 10
Cs2 sw_b vdc 470p
Rs2 sw_b vdc 10
Cs3 0 sw_b 470p
Rs3 0 sw_b 10
Cs4 0 sw_a 470p
Rs4 0 sw_a 10

* 7. LC Output Filter (2nd-order, 503Hz differential cutoff)
*    20kHz switching attenuated ~1600× (64dB) — clean sine output
L1 sw_a out_plus 5m
L2 sw_b out_minus 5m
C_out out_plus out_minus 10u
R_load out_plus out_minus 47

* 8. AVR MCU (atmega328p, SPWM via Timer1 OC1A/PB1, OC1B/PB2)
A_AVR [nc0 spwm_a_dig spwm_b_dig nc3 nc4 nc5 nc6 nc7 nc8 nc9 nc10 nc11 nc12 nc13 nc14 nc15 nc16 nc17 nc18 nc19 nc20 nc21 nc22 nc23] [nc0 spwm_a_dig spwm_b_dig nc3 nc4 nc5 nc6 nc7 nc8 nc9 nc10 nc11 nc12 nc13 nc14 nc15 nc16 nc17 nc18 nc19 nc20 nc21 nc22 nc23] d_cosim_model
.model d_cosim_model d_cosim(simulation="./cosim/libavr_cosim.so" sim_args=["atmega328p"] queue_size=1024 irreversible=1 delay=1e-9)

* 9. MOSFET Model (IRF540)
.model IRF540 VDMOS(Rg=1.0 Vto=3.0 Rd=40m Rs=10m Rb=20m Kp=8.0 Lambda=10m
+ Cgdmax=1.0n Cgdmin=0.1n Cgs=1.5n Cds=0.5n Is=1e-12)

* 10. Simulation Options
.options reltol=0.005 method=gear itl1=500 itl2=5000
.tran 1us 40ms

.control
run
* Compute differential output
let v_diff = v(out_plus) - v(out_minus)
* Print filtered sine (single-ended references + differential)
print v(out_plus) v(out_minus) v_diff
.endc
.end
